US05098923
c) 1-benzyl-5-[3,3-bis(4-chlorophenyl)-3-hydroxypropyl]-1H-imidazole
1-benzyl-5-imidazole propionic acid methyl ester (6,4 g) in tetrahydrofuran is heated at 60° C. and to this is then added dropwise p-chlorophenylmagnesium bromide prepared above. After the addition is complete, the reaction mixture is refluxed for an additional 3 hours, cooled and poured into cold water. Tetrahydrofuran is evaporated, toluene is added and the mixture is made acidic with hydrochloric acid. The precipitated product is filtered, washed with ether and dried. Yield 12,2 g; m.p. 210°-213° C. M.p. of nitrate 157°-160° C. (made in water-ether mixture). M.p. of hydrochloride (from ethylacetate) 178°-187° C.

reactant | 1-benzyl-5-imidazole propionic acid methyl ester | 6,4 g | COC(CCC1=CN=CN1CC1=CC=CC=C1)=O | C14H16N2O2
reactant | p-chlorophenylmagnesium bromide | ClC1=CC=C(C=C1)[Mg]Br
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 1-benzyl-5-[3,3-bis(4-chlorophenyl)-3-hydroxypropyl]-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1CCC(O)(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl | C25H22Cl2N2O
